US05158946
(b) Diphenylmethyl 7β-Amino-3-(2,5-dihydro-2-oxofuran-4-ylmethyloxy)ceph-3-em-4-carboxylate
Diphenylmethyl 3-(2,5-dihydro-2-oxofuran-4-ylmethyl oxy)-7β-phenylacetamidoceph-3-em-4-carboxylate (958 mg) was dissolved in dichloromethane (13 ml) whilst under an inert atmosphere. The solution was cooled to -20° C. before treating with N-methylmorpholine (352 μl) followed by a solution of phosphorous pentachloride in dichloromethane (12.5 ml of 40 mg ml-1 solution). After stirring for 30 min. at -20° C. the solution was treated with methanol (3.2 ml) and then allowed to warm to RT. After a further 30 min. water (4.3 ml) was added and the reaction was stirred vigorously for 60 min. Solvent was removed by evaporation in vacuo and the residue dissolved in ethyl acetate/water. The pH of the mixture was adjusted to 6.5 with 1.0M aqueous ammonia. Separation of the organic phase was followed by washing with water and brine before drying over anhydrous magnesium sulphate. Purification was accomplished by chromatography of the crude material on silica gel (Keiselgel) eluting with ethyl acetate. The title compound was finally isolated as a foam (565 mg). υmax (CH2Cl2) 1780, 1755 and 1730cm-1 ; δH(CDCl3) 3.34 (1H, d, J 17.7Hz), 3.54 (1H, d, J 17.7Hz), 4.51-4.58 (2H, m), 4.70 (2H, bs) 4.75 (1H, d, J 4.7Hz), 4.97 (1H, d, J 4.7Hz), 5.93 (1H, s), and 7.26-7.40 (10H, m). [Mass spectrum: FAB +ve ion (3NOBA/Na+) MNa+ 501].

reactant | Diphenylmethyl 3-(2,5-dihydro-2-oxofuran-4-ylmethyl oxy)-7β-phenylacetamidoceph-3-em-4-carboxylate | 958 mg | O=C1OCC(=C1)COC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C33H28N2O7S
reactant | N-methylmorpholine | 352 μl | CN1CCOCC1 | C5H11NO
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 3.2 ml | CO | CH4O
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12.5 ml | ClCCl | CH2Cl2
solvent | water | 4.3 ml | O | H2O
product | Diphenylmethyl 7β-Amino-3-(2,5-dihydro-2-oxofuran-4-ylmethyloxy)ceph-3-em-4-carboxylate | N[C@H]1[C@@H]2N(C(=C(CS2)OCC2=CC(OC2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N2O6S
